US06034246
To a solution of 2(4'-aminophenyl)benzothiazole (0.4 g, 1.77 mmol) in benzene (20 ml) was added dropwise dichloroacetyl chloride (0.34 ml) at 80° C. The yellow precipitate was formed and the mixture was stirred at 80° C. for 30 minutes. The precipitate was filtered off, washed with benzene and diethyl ether to give (2-(4'-dichloroacetamidophenyl) benzothiazole hydrochloride as a yellow powder (0.56 g, 84,8%). A fine powder of the above salt (0.25 g) was treated with 10% aqueous Na2CO3 (15 ml) for 50° C. for 1 hour, the product was collected by filtration, washed with water and dried to afford a white powder (0.2 g, 88.6%), m.p. 223.0-225.2° C.

reactant | 2(4'-aminophenyl)benzothiazole | 1.77 mmol, 0.4 g | NC1=CC=C(C=C1)C=1SC2=C(N1)C=CC=C2 | C13H10N2S
reactant | dichloroacetyl chloride | 0.34 ml | ClC(C(=O)Cl)Cl | C2HCl3O
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 2-(4'-dichloroacetamidophenyl) benzothiazole hydrochloride | 0.56 g, 84,8% | Cl.ClC(C(=O)NC1=CC=C(C=C1)C=1SC2=C(N1)C=CC=C2)Cl | InChI=1S/C15H10Cl2N2OS.ClH/c16-13(17)14(20)18-10-7-5-9(6-8-10)15-19-11-3-1-2-4-12(11)21-15;/h1-8,13H,(H,18,20);1H
